US05344958
To a stirred solution of N-(3-methoxy-2-methylbenzoyl)-N'-tert-butylhydrazine (506 g, 2.14 mol.) in methylene chloride (1.5 L) at 5° C. were simultaneously added solutions of 3,5-dimethylbenzoyl chloride (360 g, 2.14 mol.) in methylene chloride (500 mL) and sodium hydroxide (50% aqueous, 171.2 g, 2.14 mol) diluted with water (400 mL), at such a rate that the temperature of the mixture did not exceed 10° C. Following the addition, the reaction mixture was allowed to reach room temperature and stirred continuously for 1 additional hour, whereupon the reaction mixture was diluted with methylene chloride (12 L), washed with water, dried over magnesium sulfate, filtered and stripped to give N-(3-methoxy-2-methylbenzoyl)-N'-(3,5-dimethylbenzoyl)-N'-tert-butylhydrazine (663 g, 84.6% yield).

reactant | N-(3-methoxy-2-methylbenzoyl)-N'-tert-butylhydrazine | 2.14 mol, 506 g | COC=1C(=C(C(=O)NNC(C)(C)C)C=CC1)C | C13H20N2O2
reactant | 3,5-dimethylbenzoyl chloride | 2.14 mol, 360 g | CC=1C=C(C(=O)Cl)C=C(C1)C | C9H9ClO
reactant | sodium hydroxide | 2.14 mol, 171.2 g | [OH-].[Na+]
solvent | methylene chloride | 1.5 L | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 500 mL | C(Cl)Cl | CH2Cl2
solvent | water | 400 mL | O | H2O
solvent | methylene chloride | 12 L | C(Cl)Cl | CH2Cl2
product | N-(3-methoxy-2-methylbenzoyl)-N'-(3,5-dimethylbenzoyl)-N'-tert-butylhydrazine | 663 g, 84.6% yield | COC=1C(=C(C(=O)NN(C(C)(C)C)C(C2=CC(=CC(=C2)C)C)=O)C=CC1)C | C22H28N2O3
